US09382238B2
To a mixture of 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-3-fluorophenyl)-N-(4-(3-hydroxy-2,2-dimethylpropyl)-3-(trifluoromethyl)phenyl)acetamide (4.2 g, 6.88 mmol) in MeOH (50 mL) was added Pd/C (10%, 420 mg). The mixture was stirred under H2 at 25° C. for 16 h. Then the reaction residue was filtered and concentrated. The crude material was purified by preparative HPLC (MeCN/H2O as eluants, acidic condition) to yield a white solid of 2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-3-fluorophenyl)-N-(4-(3-hydroxy-2,2-dimethylpropyl)-3-(trifluoromethyl)phenyl)acetamide (2000.18 mg, 3.84 mmol, 61% yield). TLC (DCM/MeOH=10:1, Rf=0.6): 1H NMR (400 MHz, CD3OD) δ 7.94 (s, 1H), 7.77-7.68 (m, 2H), 7.42 (d, J=8.8 Hz, 1H), 7.37-7.29 (m, 1H), 7.27-7.17 (m, 2H), 6.36 (s., 1H), 4.25-4.15 (m, 2H), 3.75 (s, 2H), 2.76 (s, 2H), 1.33 (t, J=6.8 Hz, 3H), 0.82 (s, 6H); ES-LCMS m/z 521.2 (M+H).

reactant | 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-3-fluorophenyl)-N-(4-(3-hydroxy-2,2-dimethylpropyl)-3-(trifluoromethyl)phenyl)acetamide | 6.88 mmol, 4.2 g | C(C1=CC=CC=C1)OC1=CC(=C(C=N1)C1=C(C=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CC(CO)(C)C)C(F)(F)F)F)OCC | C34H34F4N2O4
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 420 mg | [Pd] | Pd
product | 2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-3-fluorophenyl)-N-(4-(3-hydroxy-2,2-dimethylpropyl)-3-(trifluoromethyl)phenyl)acetamide | 3.84 mmol, 2000.18 mg, 61% yield | C(C)OC=1C(=CNC(C1)=O)C1=C(C=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CC(CO)(C)C)C(F)(F)F)F | C27H28F4N2O4
